US07807675B2
(a) Production of Cbz-Phe-NH—C2H4—NH-Boc (Compound 1a)
N-carbobenzoxy-L-phenylalanine (Cbz-Phe: 7.16 g, 25.4 mmol), N-t-butoxycarbonyl-ethylenediamine hydrochloride (5.00 g, 25.4 mmol), 1-hydroxybenzotriazole hydrate (HOBT: 4.28 g, 28.0 mmol), and N-methylmorpholine (NMM: 3.07 mL, 28.0 mmol) were dissolved in 100 mL of dimethylformamide (DMF), to which 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC: 5.36 g, 28.0 mmol) was then added under stirring and cooling with ice, followed by stirring at room temperature for one day. A 10% citric acid aqueous solution was added to the reaction solution, and the precipitated solid was dissolved in chloroform and a small amount of methanol, followed by washing the solution with a saturated sodium bicarbonate solution and a saturated saline solution before drying with sodium sulfate. It was concentrated under reduced pressure, followed by purifying the resultant residue using silica gel column chromatography (elution solvent: chloroform:methanol=95:5) to provide 9.69 g of the title compound as a white solid.

reactant | N-carbobenzoxy-L-phenylalanine | 25.4 mmol, 7.16 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | N-t-butoxycarbonyl-ethylenediamine hydrochloride | 25.4 mmol, 5.00 g | Cl.C(C)(C)(C)OC(=O)NCCN
reactant | 1-hydroxybenzotriazole hydrate | 28.0 mmol, 4.28 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 28.0 mmol, 3.07 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 28.0 mmol, 5.36 g | Cl.C(C)N=C=NCCCN(C)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | Cbz-Phe-NH—C2H4—NH-Boc | 9.69 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCCNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H31N3O5
